US06492383B1
(2-Methyl-1H-indol-5-yl)-[2-(6-methyl-pyridin-2-yl)-thieno[3,2-b]pyridin-7-yl]-amine
The title compound was prepared from 2-methyl-5-aminoindole and 7-chloro-2-(6-methyl-pyridin-2-yl)-thieno[3,2-b]pyridine by the procedure analogous to example 148(c) above. 1H NMR (400 MHz, CD3OD) δ8.51 (d, 1H), 7.83 (s, 1H), 7.68 (m, 2H), 7.34 (m, 1H), 7.27 (d, 1H), 7.16 (d, 1H), 6.97 (dd, 1H), 6.57 (d, 1H), 6.10 (s, 1H), 2.52 (s, 3H), 2.40 (s, 3H); RP18-HPLC RT: 5.70 minutes; API MS: 371 (M+1).

reactant | 2-methyl-5-aminoindole | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
reactant | 7-chloro-2-(6-methyl-pyridin-2-yl)-thieno[3,2-b]pyridine | ClC1=C2C(=NC=C1)C=C(S2)C2=NC(=CC=C2)C | C13H9ClN2S
product | (2-Methyl-1H-indol-5-yl)-[2-(6-methyl-pyridin-2-yl)-thieno[3,2-b]pyridin-7-yl]-amine | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C2=NC(=CC=C2)C | C22H18N4S
